US08044068B2
To a mixture of t-butyl 4-(2-((S)-pyrrolidin-3-ylamino)quinazolin-4-yl)piperazine-1-carboxylate (0.15 g), pyridine (60 mg), and chloroform was added phenylacetic acid chloride (87 mg), and the mixture was stirred at room temperature for 16 h. To the reaction mixture was added saturated aqueous sodium hydrogencarbonate, the mixture was extracted with chloroform, and the organic layer was dried with anhydrous magnesium sulfate. The desiccant was removed by filtration, the filtrate was concentrated under reduced pressure, and then the residue was purified by silica gel column chromatography (NH silica gel, hexane/ethyl acetate=2:1−ethyl acetate) to obtain t-butyl 4-(2-((S)-1-(2-phenylethanoyl)pyrrolidin-3-ylamino)quinazolin-4-yl)piperazine-1-carboxylate (0.12 g). (2) To t-butyl 4-(2-((S)-1-(2-phenylethanoyl)pyrrolidin-3-ylamino)quinazolin-4-yl)piperazine-1-carboxylate (0.12 g) was added a mixed solution (7.5 mL) of chloroform and trifluoroacetic acid (10:1), and the mixture was stirred overnight at room temperature. To the reaction mixture was added 1 M aqueous sodium hydroxide, the mixture was extracted with chloroform, and the organic layer was dried with anhydrous magnesium sulfate. The desiccant was removed by filtration, then the solvent was evaporated, and the residue was purified by preparative TLC to obtain title compound (69 mg).

reactant | t-butyl 4-(2-((S)-pyrrolidin-3-ylamino)quinazolin-4-yl)piperazine-1-carboxylate | 0.15 g | N1C[C@H](CC1)NC1=NC2=CC=CC=C2C(=N1)N1CCN(CC1)C(=O)OC(C)(C)C | C21H30N6O2
reactant | pyridine | 60 mg | N1=CC=CC=C1 | C5H5N
reactant | phenylacetic acid chloride | 87 mg | C1(=CC=CC=C1)CC(=O)Cl | C8H7ClO
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | t-butyl 4-(2-((S)-1-(2-phenylethanoyl)pyrrolidin-3-ylamino)quinazolin-4-yl)piperazine-1-carboxylate | 0.12 g | C1(=CC=CC=C1)CC(=O)N1C[C@H](CC1)NC1=NC2=CC=CC=C2C(=N1)N1CCN(CC1)C(=O)OC(C)(C)C | C29H36N6O3
